US07923450B2
c) [4-(3-Methyl-[1,2,4]thiadiazol-5-yl)-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine
A solution of [4-(3-methyl-[1,2,4]thiadiazol-5-yl)-phenyl]-thiourea (75 mg, 0.3 mmol) and 2-bromo-6-phenyl-cyclohexanone (84 mg, 0.33 mmol) in ethanol (3 ml) was heated to reflux over night. The precipitated solid, unreacted thiourea, was filtered off after cooling to room temperature and washed with ethanol. The filtrate was evaporated under reduced pressure and the residue was purified on silica gel using heptane/ethyl acetate (4:1 v/v) as the eluent to yield the title compound (12 mg, 10%) as a yellow solid. MS ISP (m/e): 405.2 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=10.51 (br s, 1H, NH), 7.82 (d, 2H), 7.58 (d, 2H), 7.28 (t, 2H), 7.19 (t, 1H), 7.13 (d, 1H), 4.07 (m, 1H), 2.72 (m, 2H), 2.58 (s, 3H), 2.13 (m, 1H), 1.70-1.90 (m, 3H).

reactant | [4-(3-methyl-[1,2,4]thiadiazol-5-yl)-phenyl]-thiourea | 0.3 mmol, 75 mg | CC1=NSC(=N1)C1=CC=C(C=C1)NC(=S)N | C10H10N4S2
reactant | 2-bromo-6-phenyl-cyclohexanone | 0.33 mmol, 84 mg | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | [4-(3-Methyl-[1,2,4]thiadiazol-5-yl)-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine | 12 mg, 10% | CC1=NSC(=N1)C1=CC=C(C=C1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2 | C22H20N4S2
